US03996366
35.2 g. 1-Amino-3,3-dimethylbutan-2-one hydrochloride and 30 g. potassium thiocyanate in 50 ml. water was warmed on the steam bath for 2 hours. After cooling, the solid formed was collected, washed with water, dried and recrystallised from industrial methylated spirit to give 4-tert.butylimidazole-2-thiol, melting point 232° - 234° C. A solution/suspension of this in industrial methylated spirit was added to a solution of 4.5 g. sodium hydroxide in 100 ml. water. 17.6 g. Ethyl iodide was added forming a lower layer and the mixture was shaken for two minutes whilst the ethyl iodide reacted and dispersed. After 20 minutes the alkali was neutralised by passing in carbon dioxide and the methylated spirit removed by evaporation. The solid was collected, washed with water, dried and on recrystallisation from toluene gave 2-ethylthio-4-tert.butylimidazole, melting point 116.5° - 120° C.

reactant | 1-Amino-3,3-dimethylbutan-2-one hydrochloride | Cl.NCC(C(C)(C)C)=O
reactant | potassium thiocyanate | [S-]C#N.[K+]
solvent | water | O | H2O
product | 4-tert.butylimidazole-2-thiol | C(C)(C)(C)C=1N=C(NC1)S | C7H12N2S
